US09023864B2
{7-[4-(4-Methoxy-phenyl)-[1,2,3]triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}-acetic acid
The title compound was prepared using analogous procedures described in EXAMPLE 1 from propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and 1-ethynyl-4-methoxybenzene. 1H NMR (400 MHz, DMSO-d6): δ 12.14 (s, 1 H), 8.67 (s, 1 H), 7.78 (d, 2 H), 7.48 (d, 1 H), 7.42 (d, 1 H), 7.13-6.99 (m, 4 H), 5.40-5.30 (m, 1 H), 4.74 (dd, 1 H), 4.40 (dd, 1 H), 3.80 (s, 3 H), 3.61 (s, 2 H), 3.12-3.01 (m, 2 H). MS (+ESI) m/z: 403.1.

reactant | propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=CC=CC=C3C2CC(=O)OCCC)C1 | C17H20N4O2
reactant | 1-ethynyl-4-methoxybenzene | C(#C)C1=CC=C(C=C1)OC | C9H8O
product | {7-[4-(4-Methoxy-phenyl)-[1,2,3]triazol-1-yl]-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl}-acetic acid | COC1=CC=C(C=C1)C=1N=NN(C1)C1CCC=2N(C3=CC=CC=C3C2CC(=O)O)C1 | C23H22N4O3
